US07112680B2
1-(3-Isoquinolinyl)-1-ethanone-1-(1-methyl-1H-benzo[d]imidazol-2-yl)-hydrazone (1b-23)
A mixture of 3-acetylisoquinoline (1.01 g, 5.9 mmol) and 1-methyl-2-hydrazinobenzimidazole (0.96 g, 5.55 mmol) in 15 ml of methanol is stirred for approximately 7 days at room temperature after the addition of 5 drops of glacial acetic acid. The reaction is monitored by means of thin layer chromatography (Polygram Sil G/UV254 prefabricated foils; eluting agent: petroleum ether:ethyl acetate (3:7)). The reaction mixture is stored over night in the freezer at approximately −20° C. The precipitate is filtered, washed with ether and dried. The product is recrystallized from a mixture of ethylacetate and petroleum ether. Yield: 1.66 g (95% of theory).

reactant | 3-acetylisoquinoline | 5.9 mmol, 1.01 g | C(C)(=O)C=1N=CC2=CC=CC=C2C1 | C11H9NO
reactant | 1-methyl-2-hydrazinobenzimidazole | 5.55 mmol, 0.96 g | CN1C(=NC2=C1C=CC=C2)NN | C8H10N4
solvent | methanol | 15 ml | CO | CH4O
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | 1-(3-Isoquinolinyl)-1-ethanone-1-(1-methyl-1H-benzo[d]imidazol-2-yl)-hydrazone | CN1C(=NC2=C1C=CC=C2)NN=C(C)C=2N=CC1=CC=CC=C1C2 | C19H17N5
